* c:\users\mistr\esim-workspace\encoder\encoder.cir

* u5  net-_u4-pad4_ net-_u4-pad5_ net-_u5-pad3_ d_or
* u6  net-_u4-pad4_ net-_u4-pad6_ net-_u6-pad3_ d_or
* u7  net-_u5-pad3_ net-_u6-pad3_ a1 a0 dac_bridge_2
* u4  y3 y2 y1 net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ adc_bridge_3
r1  a1 gnd esim_r
r2  a0 gnd esim_r
v1 y3 gnd  dc 5
v2 y2 gnd  dc 0
v3 y1 gnd  dc 0
* u1  y3 plot_v1
* u2  y2 plot_v1
* u3  y1 plot_v1
* u8  a0 plot_v1
* u9  a1 plot_v1
a1 [net-_u4-pad4_ net-_u4-pad5_ ] net-_u5-pad3_ u5
a2 [net-_u4-pad4_ net-_u4-pad6_ ] net-_u6-pad3_ u6
a3 [net-_u5-pad3_ net-_u6-pad3_ ] [a1 a0 ] u7
a4 [y3 y2 y1 ] [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] u4
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u5 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u6 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(y3)
plot v(y2)
plot v(y1)
plot v(a0)
plot v(a1)
.endc
.end
